US07449467B2
tert-Butyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate
To a slightly cloudy solution of 3-bromo-5-(trifluoromethyl)pyridine (2.20 g, 30% purity, 2.92 mmol) in dry methylene chloride (15.0 mL) at −78° C. was added a 1.6 M solution of n-butyllithium in hexanes (1.99 mL). After being stirred for 30 min at −78° C., a solution of tert-butyl 4-oxo-1-piperidinecarboxylate (0.534 g, 2.65 mmol) in dry methylene chloride (3.0 mL) was added dropwise. The reaction was stirred at −78° C. for 1.5 h and quenched with aqueous NH4Cl. The resulting solution was extracted with methylene chloride three times. The combined organic layers were dried, filtered and concentrated. The residue was purified by column chromatography on silica gel (50:50 EtOAc/hexanes) to give 330 mg (25%) of desired product as a yellow oil. LC-MS calculated for C16H21F3N2O3: (M+H) 347; found 247.1 (M-Boc+1).

reactant | 3-bromo-5-(trifluoromethyl)pyridine | 2.92 mmol, 2.20 g | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 2.65 mmol, 0.534 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | methylene chloride | 15.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3.0 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-hydroxy-4-[5-(trifluoromethyl)pyridin-3-yl]piperidine-1-carboxylate | 330 mg, 25% | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=C(C1)C(F)(F)F | C16H21F3N2O3
